US04551460
A solution of 14.35 g of 4-(4-pyridylthio)butanenitrile in 280 ml of 1 Molar borane in tetrahydrofuran was stirred over night at room temperature. The excess reagent was quenched by the careful addition of 100 ml of methanol. The reaction mixture was evaporated to dryness, diluted with 200 ml of methanol, evaporated, diluted with 100 ml of 6N hydrochloric acid and allowed to stand at room temperature for 72 hours. The resulting mixture was made strongly basic with 50% sodium hydroxide and was extracted with 4×150 ml of dichloromethane. The combined organic layers were dried over potassium carbonate, evaporated, and the residue was distilled to give 12.62 g (86%) of 4-(4-pyridylthio)butanamine, bp 180° C./0.1 mm.

reactant | 4-(4-pyridylthio)butanenitrile | 14.35 g | N1=CC=C(C=C1)SCCCC#N | C9H10N2S
solvent | borane | 1 Molar, 280 ml | B | BH3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-(4-pyridylthio)butanamine | 12.62 g, 86% | N1=CC=C(C=C1)SCCCCN | C9H14N2S
